US05760050
8-Methoxy-3-quinolin-4-ylmethyl-1,2,3,4-tetrahydro-chromeno[3,4-c]pyridin-5-one
A mixture of 8-methoxy-1,2,3,4-tetrahydro-chromeno[3,4-c]pyridin-5-one (1.0 g, 4.3 mmol), 4-quinolinecarboxaldehyde (0.68 g, 4.3 mmol), and glacial acetic acid (1.75 mL, 30.6 mmol) in 20 mL of 1,2-dichloroethane is treated in small portions with sodium triacetoxyborohydride (1.3 g, 6.1 mmol). The mixture is stirred at room temperature for 24 hours. Water (100 mL) is slowly added, followed by concentrated ammonium hydroxide until slight basicity. The mixture is extracted with dichloromethane, and the combined organic layers are washed with brine, dried (anhydrous sodium sulfate), and evaporated. Purification of the residue by flash chromatography (silica gel, 3% methanol in dichloromethane elution) gives 0.70 g (42%) of product; mp 186°-188° C.

reactant | 8-methoxy-1,2,3,4-tetrahydro-chromeno[3,4-c]pyridin-5-one | 4.3 mmol, 1.0 g | COC=1C=CC2=C(C1)OC(C=1CNCCC12)=O | C13H13NO3
reactant | 4-quinolinecarboxaldehyde | 4.3 mmol, 0.68 g | N1=CC=C(C2=CC=CC=C12)C=O | C10H7NO
reactant | acetic acid | 30.6 mmol, 1.75 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 6.1 mmol, 1.3 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | 1,2-dichloroethane | 20 mL | ClCCCl | C2H4Cl2
solvent | Water | 100 mL | O | H2O
product | 8-Methoxy-3-quinolin-4-ylmethyl-1,2,3,4-tetrahydro-chromeno[3,4-c]pyridin-5-one | 0.70 g, 42% | COC=1C=CC2=C(C1)OC(C=1CN(CCC12)CC1=CC=NC2=CC=CC=C12)=O | C23H20N2O3
